US06660778B1
Si(OC2H5)4;
CH3Si (OCH3)3; CH3Si(OC2H5)3; (C2H5O)3Si(OCH3); CH2═CHSi (OCH3)3; CH3(CH2═CH)Si (OCH3)2; CH2═CHSi (OC2H5)3; CH2═CHSi[ON═C(CH3)C2H5]3; CH3Si[ON═C(CH3)2]3; CH3Si[O—C(CH3)═CH2]3; methyltris (N-methylacetamido-silane); methyltris (cyclohexylaminosiloxane).

reactant | CH3Si(OC2H5)3 | C[Si](OCC)(OCC)OCC | C7H18O3Si
reactant | CH2═CHSi[ON═C(CH3)C2H5]3 | C=C[Si](ON=C(C)CC)(ON=C(C)CC)ON=C(C)CC | C14H27N3O3Si
reactant | CH3Si[ON═C(CH3)2]3 | C[Si](ON=C(C)C)(ON=C(C)C)ON=C(C)C | C10H21N3O3Si
reactant | CH3Si[O—C(CH3)═CH2]3 | C[Si](OC(C)=C)(OC(C)=C)OC(C)=C | C10H18O3Si
product | Si(OC2H5)4 | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
